US04304642
The procedure of Example 1 was repeated using dimethyldisulphide (96 mg; 1.02 mmol) and 1-octene (358 mg; 3.19 mmol) in acetonitrile (15 ml) at +1.20 V until 2 coulomb equivalents of charge had been passed. After the addition of water and extraction with diethyl ether, there was obtained 106 mg of methylthio-octane. Mass Spec. m/e 217 (M+) and 44 (100%). I.R. 3300 and 1650 cm-1.

reactant | dimethyldisulphide | 1.02 mmol, 96 mg | CSSC | C2H6S2
reactant | 1-octene | 3.19 mmol, 358 mg | C=CCCCCCC | C8H16
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | methylthio-octane | 106 mg | CSCCCCCCCC | C9H20S
